US06878690B2
D-mannose (3.6 g, 20 mmol) and carboxymethylene triphenylphosphorane (6.68 g, 20 mmol) prepared by the method of von Isler et al., (von Isler, O., Gutmann, H., Montavon, M., Ruegg, R., Ryser, G. and Zeller, P., (1957). Synthesen in der carotinoid-Reihe. Anwendung der Wittig-reaktion zur synthese von estern des bixins and crocetins. Helvetica Chimica Acta, vol 15, 1242-1249, incorporated herein by reference) was refluxed in dioxane (75 mls) for 3 hours. Afterwards the dioxane was removed under reduced pressure and diethyl ether (250 ml) was added to the oily residue, whereupon it solidified. This was stirred vigorously for 20 minutes, allowed to settle and the ether was decanted. The washing procedure was repeated with a further 250 ml of ether. The solid was then stirred vigorously with dichloromethane (100 ml) for 15 minutes and the solid filtered off and dried to give methyl 4,5,6,7,8-pentahydroxyoct-2-eneoate (3.8 g, 80%). This material (16.0 g, 67.8 mmol) was dissolved in methanol (160 ml), to this solution was added dry Dowex 1 ion exchange resin (OH− form; 48 g), and the mixture allowed to stir for 4 hours at room temperature. The Dowex was filtered through a sintered glass funnel to remove the resin, which was washed with methanol (2×50 ml) and the combined filtrate and washings evaporated under reduced pressure to give methyl (3,4,5-trihydroxy-6′-hydroxymethyl)pyran-2-yl)acetate as a pale yellow syrup. A mixture of this material (417 mg, 1.77 mmol), trityl chloride (740 mg, 2.66 mmol) and pyridine (5 ml) was stirred at 60° for 8 hours. After cooling to room temperature acetic anhydride (1 ml, 10.6 mmol) was added and the mixture stirred overnight, whereupon it was added to ice cold water (25 ml) and extracted with chloroform (3×50 ml). The organic phase was dried (sodium sulfate), filtered and evaporated under reduced pressure. The residue was chromatographed on a silica gel (0.063-0.2 mm) column (2×30 cm), eluted with petroleum spirit (bp 60-80°): ethyl acetate (2:1) to give methyl (3,4,5-triacetoxy-6-trityloxymethyl-tetrahydropyran-2-yl)-acetic acid ester (786 mg). This compound (786 mg) was stirred at room temperature with anhydrous ferric chloride (257 mg) in dichloromethane (10 ml) for 2 hours, whereupon water (10 ml) was added and the mixture extracted with chloroform (3×25 ml). The organic extracts were combined and dried (sodium sulfate), filtered and the filtrate evaporated under reduced pressure. The residue was chromatographed on a silica gel (0.063-0.2 mm) column (2×30 cm), eluted with petroleum spirit (bp 60-80°): ethyl acetate (1:2) to give methyl (3,4,5-triacetoxy-6-hydroxymethyl-tetrahydro-pyran-2-yl)-acetic acid ester (463 mg). This compound (344 mg, 0.95 mmol) was dissolved in toluene (15 ml) and pyridine (86.7 mg) and the mixture cooled to 0° whereupon phosphorus oxychloride (167.8 mg, 1.094 mmol) was added dropwise with stirring under a dry nitrogen atmosphere. The mixture was allowed to come to room temperature and stirred for 2 hours. The mixture was filtered and evaporated to dryness under reduced pressure. The residue was dissolved in a 1:1 mixture of acetone and water (10 mls) and kept at 45-50° for 2 hours. After evaporation to dryness the residue was evaporated once from 15 ml of each of ethanol, methanol and finally acetone to give methyl (3,4,5-triacetoxy-6-phosphonooxymethyl-tetrahydro-pyran-2-yl)-acetic acid ester (354 mg, 81%). This compound (354 mg, 0.8 mmol) was stirred at room temperature over night in methanol (5 ml) that contained sodium methoxide (86.4 mg, 1.6 mmol). After taking to dryness under reduced pressure the residue was dissolved in water (5 ml) and treated with a strong cationic exchange resin (Dowex 50 H+ form) to remove sodium ions. The resulting solution was filtered, taken to dryness under reduced pressure and the residue evaporated twice from ethanol and twice from methanol to give methyl (3,4,5-trihydroxy-6-phosphonooxymethyl-tetrahydro-pyran-2-yl)-acetic acid ester (203 mg, 80%) ESMS (−ve) 315 (M−H).

reactant | D-mannose | 20 mmol, 3.6 g | O=C[C@@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | carboxymethylene triphenylphosphorane | 20 mmol, 6.68 g | C(=O)(O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H17O2P
reactant | Ryser | CO[C@H]1[C@@H](C[C@@H]2CN3CCC4=C([C@H]3C[C@@H]2[C@@H]1C(=O)OC)NC5=C4C=CC(=C5)OC)OC(=O)C6=CC(=C(C(=C6)OC)OC)OC | C33H40N2O9
solvent | dioxane | 75 mls | O1CCOCC1 | C4H8O2
product | methyl 4,5,6,7,8-pentahydroxyoct-2-eneoate | 3.8 g, 80% | OC(C=CC(=O)OC)C(C(C(CO)O)O)O | C9H16O7
